US05491144
4,5-Bis(cyclohexylamino)phthalimide
Analogously to Example 1, 194 mg (0.5 mmol) of 4,5-bis(cyclohexylamino)phthalic acid dimethyl ester in 15 ml of ethylene glycol are heated at 120°, ammonia gas being passed through the mixture, with stirring, for 12 hours. The reaction mixture is cooled, saturated with sodium chloride and extracted with ethyl acetate. The ethylacetate phases are washed in succession three times with water and once with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation. The evaporation residue is chromatographed onsilica gel with hexane/ethyl acetate 3:1 and the product fractions are combined and concentrated by evaporation, yielding the title compound in the form of orange crystals, m.p. 170°-175° C., FAB-MS: 342 [M+ +H].

reactant | 4,5-bis(cyclohexylamino)phthalic acid dimethyl ester | 0.5 mmol, 194 mg | COC(C=1C(C(=O)OC)=CC(=C(C1)NC1CCCCC1)NC1CCCCC1)=O | C22H32N2O4
reactant | ammonia | N | H3N
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethylene glycol | 15 ml | C(CO)O | C2H6O2
product | 4,5-Bis(cyclohexylamino)phthalimide | C1(CCCCC1)NC=1C=C2C(C(=O)NC2=O)=CC1NC1CCCCC1 | C20H27N3O2
